US04168269
9-(2-Cyclohexen-1-yl)-4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one
To a mixture of 11.8 g. of 4,9-dihydro-10H-thieno [3,4-b][1,5]benzodiazepin-10-one in 175 ml. of dimethylformamide is added 2.8 g. of 50% sodium hydride in mineral oil from which the mineral oil has been removed. The mixture is stirred for two hours and then 11.9 g. of 3-bromocyclohexene is added. The reaction mixture is stirred overnight and poured into ice water. The brown syrup which separates is collected and extracted into methylene chloride. The extracts are washed with water, dried over sodium sulfate, filtered and evaporated to an oil. The oil is triturated in ether-hexane and cooled for 48 hours. The mixture is separated by partition chromatography. Fraction 3 is triturated in hexane, filtered and the solid is dried. The solid is triturated in hexane and chilled producing crystals. The crystals are collected, washed with hexane and dried. These crystals are heated to solution in 12 ml. of ethanol and cooled. A 12 ml. portion of hexane is added and the tan crystals are collected, washed with hexane and dried giving the desired product, mp. 147°-149° C.

reactant | 4,9-dihydro-10H-thieno [3,4-b][1,5]benzodiazepin-10-one | C=1SC=C2NC3=C(NC(C21)=O)C=CC=C3 | C11H8N2OS
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 9-(2-Cyclohexen-1-yl)-4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | C1(C=CCCC1)N1C(C=2C(NC3=C1C=CC=C3)=CSC2)=O | C17H16N2OS
